US04289524
Preparation of N-(5,5,7-TRIMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOLE-2-yl)-N'-METHYLUREA
2-Amino-5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazole (0.1 mole) is dissolved in ethyl acetate (100 ml) and the solution is charged into a glass reaction vessel fitted with a stirrer and thermometer. Methyl isocyanate (0.11 mole) is added dropwise to this solution over a period of about 30 minutes. The temperature of the reactant is held at about 20° C. to 30° C. during the addition. At the end of the addition, stirring is continued at room temperature for a period of about 2 hours. The reaction mixture is then filtered and the filtered-off solids are air dried to yield the desired product N-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl)-N'-methylurea.

reactant | 2-Amino-5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazole | 0.1 mole | NC=1SC2=C(N1)CC(CC2C)(C)C | C10H16N2S
reactant | Methyl isocyanate | 0.11 mole | CN=C=O | C2H3NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl)-N'-methylurea | CC1(CC(C2=C(N=C(S2)NC(=O)NC)C1)C)C | C12H19N3OS
